US05070096
2-[N-methyl-N-(3-nitrobenzyl)aminoethyl]pyridine
6.8 g of 3-nitrobenzyl chloride in 25 ml of methanol are slowly added dropwise to a solution of 5.4 g of 2-(2-methylaminoethyl)pyridine in 20 ml of methanol at 40° C. 15 ml of triethylamine in 15 ml of methanol are subsequently added, and the mixture is stirred for 15 hours at 40° C. After removal of the solvent by evaporation in vacuo, the residue is taken up in 300 ml of water and extracted three times with dichloromethane. After drying over sodium sulphate, the dichloromethane is evaporated in vacuo and the residue is chromatographed on silica gel (eluent: dichloromethane/methanol 100:5).

reactant | 3-nitrobenzyl chloride | 6.8 g | [N+](=O)([O-])C=1C=C(CCl)C=CC1 | C7H6ClNO2
reactant | 2-(2-methylaminoethyl)pyridine | 5.4 g | CNCCC1=NC=CC=C1 | C8H12N2
reactant | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 15 ml | CO | CH4O
product | 2-[N-methyl-N-(3-nitrobenzyl)aminoethyl]pyridine | CN(CC1=CC(=CC=C1)[N+](=O)[O-])CCC1=NC=CC=C1 | C15H17N3O2
